US09062207B2
Preparation of 5,15-bis(4-(tert-butyl)phenoxy)-2-(2,6-diisopropylphenyl)-1H-thioxantheno[2′,1′,9′:10,5,6]anthra[2,1,9-def]isoquinoline-1,3(2H)-dione
Compound 8-bromo-5,12-bis(4-(tert-butyl)phenoxy)-2-(2,6-diisopropylphenyl)-1H-benzo[5,10]anthra[2,1,9-def]isoquinoline-1,3(2H)-dione (3.0 g), 2-aminobenzenthiol (0.48 g, 10% excess) and anhydrous potassium carbonate (0.24 g) were added to 30 mL of N-methyl-2-pyrrolidinone (NMP). The solution was heated rapidly and refluxed for 30 min. After a minute the liquor was added to 2% aqueous hydrochloride acid (250 ml) and after standing overnight, filtered and dried at 105° C. to give a red-blue solid of 8-((2-aminophenyl)thio)-5,12-bis(4-(tert-butyl)phenoxy)-2-(2,6-diisopropylphenyl)-1H-benzo[5,10]anthra[2,1,9-def]isoquinoline-1,3(2H)-dione (2.06 g) with a nominal yield of 60.0%. 8-((2-aminophenyl)thio)-5,12-bis(4-(tert-butyl)phenoxy)-2-(2,6-diisopropylphenyl)-1H-benzo[5,10]anthra[2,1,9-def]isoquinoline-1,3(2H)-dione (2.06 g) was dissolved in warm glacial acetic (12 mL) and concentration hydrochloride acid (1.3 mL) giving a fine suspension. The suspension was cooled to 0° C. and a solution of sodium nitrite (0.16 g) in water (3.6 mL) added and stirred continuously till clear. The prepared solution was added to a boiling solution of hydrated cupric sulphate (2.6 g) in water (60 mL) with good stirring within 1 hour. After boiling a further 1 hour, the solution was cooled, filtered and a blue-red solid was given. The solid was washed with a warm solution of sodium hydroxide (20 mL, 3%) three times and purified on Chromatography Column to eliminate by-products. The blue solid of 5,15-bis(4-(tert-butyl)phenoxy)-2-(2,6-diisopropylphenyl)-1H-thioxantheno[2′,1′,9′:10,5,6]anthra[2,1,9-def]isoquinoline-1,3(2H)-dione (0.69 g) was given with a nominal yield of 34.2%. MS: base peak 884.

reactant | 8-((2-aminophenyl)thio)-5,12-bis(4-(tert-butyl)phenoxy)-2-(2,6-diisopropylphenyl)-1H-benzo[5,10]anthra[2,1,9-def]isoquinoline-1,3(2H)-dione | 2.06 g | NC1=C(C=CC=C1)SC1=C2C=3C(C4=C(C=C5C(N(C(C=6C=C(C(=C4C56)C3C=C1)OC1=CC=C(C=C1)C(C)(C)C)=O)C1=C(C=CC=C1C(C)C)C(C)C)=O)OC1=CC=C(C=C1)C(C)(C)C)=CC=C2 | C60H56N2O4S
reactant | sodium nitrite | 0.16 g | N(=O)[O-].[Na+]
reactant | acetic | 12 mL | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
solvent | water | 3.6 mL | O | H2O
solvent | water | 60 mL | O | H2O
product | 5,15-bis(4-(tert-butyl)phenoxy)-2-(2,6-diisopropylphenyl)-1H-thioxantheno[2′,1′,9′:10,5,6]anthra[2,1,9-def]isoquinoline-1,3(2H)-dione | C(C)(C)(C)C1=CC=C(OC2=CC=3C(N(C(C4=CC(=C5C(C34)=C2C2=C3C=4C(=CC=C35)C3=CC=CC=C3SC4C=C2)OC2=CC=C(C=C2)C(C)(C)C)=O)C2=C(C=CC=C2C(C)C)C(C)C)=O)C=C1 | C60H53NO4S
